US07435837B2
Treatment of (±)-benzyl[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine (2.83 g, 8.61 mmol) with diisopropylethylamine (1.67 g, 12.92 mmol) and benzyl chloroformate (1.76 g, 10.33 mmol) generally according to the procedure described for Intermediate 12 provided 3.46 g (87%) of (±)-benzyl {[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate as a colorless oil.

reactant | (±)-benzyl[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 8.61 mmol, 2.83 g | C(C1=CC=CC=C1)C(N)C1OC2=C(C1)C=CC=C2C2=C(C=C(C=C2Cl)Cl)Cl | C22H18Cl3NO
reactant | diisopropylethylamine | 12.92 mmol, 1.67 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 10.33 mmol, 1.76 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl {[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate | 3.46 g, 87% | ClC1=C(C(=CC(=C1)Cl)Cl)C1=CC=CC=2CC(OC21)CNC(OCC2=CC=CC=C2)=O | C23H18Cl3NO3
